US05480899
Synthesis of (4S, 5S)-(-)-3-(4-methoxyphenyl)-4-methyl-2-oxooxazolidin-5-ylmethyl alcohol
A 3.8 ml quantity of 8% sodium hydroxide aqueous solution was added to a methanol (20 ml) solution of 2.43 g of (4S, 5S)-(-)-3-(4-methoxyphenyl)-4-methyl-2-oxooxazolidin-5-ylmethyl p-nitrobenzoate obtained in Reference Example 8. The mixture was stirred at 50° C. for 20 minutes. The reaction mixture was concentrated under reduced pressure, and the obtained residue was extracted with ethyl acetate. The extract was washed with water, dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography and purified by hexane-ethyl acetate gradient elution to give 1.04 g of the title compound (yield 70%).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | (4S, 5S)-(-)-3-(4-methoxyphenyl)-4-methyl-2-oxooxazolidin-5-ylmethyl p-nitrobenzoate | 2.43 g | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@H]2[C@@H](N(C(O2)=O)C2=CC=C(C=C2)OC)C)C=C1 | C19H18N2O7
solvent | methanol | 20 ml | CO | CH4O
product | (4S, 5S)-(-)-3-(4-methoxyphenyl)-4-methyl-2-oxooxazolidin-5-ylmethyl alcohol | 1.04 g, yield 70% | COC1=CC=C(C=C1)N1C(O[C@@H]([C@@H]1C)CO)=O | C12H15NO4
